US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol ethylcarbamate
To a warm solution of 4-[[(dimethylamino)methylene]amino]-3-pyridinol (7.12 g) in dry tetrahydrofuran (150 mnL) were added sodium hydride (173 mg) and ethyl isocyanate (3.59 mL). The reaction mixture was stirred at room temperature overnight, cooled in an ice bath and filtered, and the solid was washed with diethyl ether. The solid was distributed between methylene chloride (250 mL) and saturated ammonium chloride (30 mL) and extracted twice more with methylene chloride (100 mL). The solution was dried (MgSO4) and concentrated, and the solid was recrystallized from ethyl acetate to yield 5.7 g of needles, m.p. 138° C. (dec.).

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol | 7.12 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | sodium hydride | 173 mg | [H-].[Na+]
reactant | ethyl isocyanate | 3.59 mL | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol ethylcarbamate | 5.7 g | C(C)NC(=O)OC=1C=NC=CC1N=CN(C)C | C11H16N4O2
